datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:10],52.7184
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][C:9]([H:10])([H:11])[H:12],40.5308264
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26],80.542
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])=[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:18])([H:19])[H:20])([C:10]([H:21])([H:22])[H:23])[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])([H:3])[H:4],11.0458
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:18])[H:6])([H:4])[H:5].[C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:19])[H:20],67.3624
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:17])([H:18])[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]2([H:23])[C:12]([H:24])([H:25])[C:13]([H:26])([H:27])[C:14]([H:28])([H:29])[C:15]2([H:30])[C:16]1([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:26])[H:5].[C:8]1([H:17])([H:18])[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]2([H:23])[C:12]([H:24])([H:25])[C:13]([H:27])[C:14]([H:28])([H:29])[C:15]2([H:30])[C:16]1([H:31])[H:32],79.9144
[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])[H:5].[O:7][O:8]>>[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])([H:5])[O:7][O:8],0.0
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12](=[O:13])[H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:11]([C:10]([H:14])([H:15])[H:16])([C:12](=[O:13])[H:18])[H:17],-8.95376
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7][C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7](=[C:6]([H:10])[H:11])[C:8](=[C:9]([H:13])[H:14])[H:12],106.064
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[S:6]([H:7])[H:8]>>[C:0](=[C:1]([S:2][H:7])[H:5])([H:3])[H:4].[S:6][H:8],58.9944
[C:0](=[C:1]1[C:2]([H:9])[C:3]2([H:10])[C:4]([H:11])([H:12])[C:5]2([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8],66.944
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([O:2][O:3][H:12])([H:11])[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[O:7]1.[O:8][H:19],74.0568
[O:0]([H:1])[H:2].[c:3]1([H:8])[c:4]([H:9])[c:5]([H:10])[s:6][c:7]1[H:11]>>[O:0]([H:2])[C:7]1([H:11])[C:3]([H:1])([H:8])[C:4]([H:9])=[C:5]([H:10])[S:6]1,266.814
[H:12].[O:0]([C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])[H:6]>>[H:6][H:12].[O:0][C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11],25.497296
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[O:11]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][O:11],4.6024
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])[H:5],36.359
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:13])[H:12].[H:21]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:12].[H:13][H:21],44.480104
